US07772256B2
5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-ol
5-methoxybenzofuran boronic acid (230 mg, 1.2 mmol), 5-iodo-2-pyridone (221 mg, 1.0 mmol), Pd(PPh3)2Cl2 (17 mg, 0.024 mmol) and NEt3 (317 μL, 2.4 mmol) were mixed in EtOH (10 mL) in a 20 mL microwave vial. The mixture was stirred at 140° C. for 10 min in a microwave reactor. The solvent was removed under vacuum, water was added and the solution was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and the solvent removed under vacuum. The crude substance was purified by preparative HPLC to afford the title compound as a white solid (20 mg). 1H NMR δ ppm 11.95 (br. s., 1 H) 7.94 (dd, 1 H) 7.88 (s, 1 H) 7.44 (d, 1 H) 7.00-7.20 (m, 2 H) 6.84 (dd, 1 H) 6.48 (d, 1H) 3.78 (s, 3 H); MS m/z 242 (M+H).

reactant | 5-methoxybenzofuran boronic acid | 1.2 mmol, 230 mg | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 5-iodo-2-pyridone | 1.0 mmol, 221 mg | IC=1C=CC(NC1)=O | C5H4INO
reactant | NEt3 | 2.4 mmol, 317 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-ol | 20 mg | COC=1C=CC2=C(C=C(O2)C=2C=CC(=NC2)O)C1 | C14H11NO3
